US04675370
Preparation of 3-bromophenyl Trimethylsilyl ether
3-Bromophenol (17.3 g, 0.100 mol) and 9 ml of pyridine together with 100 ml of toluene were placed in a 3-necked 250 ml round-bottomed flask equipped with a reflux condensor, an addition funnel and thermometer/adaptor. Chlorotrimethylsilane (12.8 g, 15 ml, 0.12 mol) was added dropwise to the vigorously stirred solution. The resultant white reaction mixture was subsequently refluxed for 4 hrs and then stirred at room temperature overnight. The white precipitate was removed by filtration and the colorless filtrate was subjected to rotary evaporation to remove the solvent. The residual liquid was purified by simple distillation. The pure product was collected at 232°-233° C. Yield: 23.0 g (93%). Calc. for C9H13BrOSi: 44.08% C; 5.34% H; 32.59% Br. Found: 43.98% C; 5.36% H; 32.35% Br. Mass Spectroscopy: 244,246 (77%, 78%, M+) Proton NMR (δ in ppm, CHCl3); 0.27 (singlet, Me3Si--); 6.66-7.32 (complex, aromatic protons).

reactant | 3-Bromophenol | 0.100 mol, 17.3 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
reactant | Chlorotrimethylsilane | 0.12 mol, 15 ml, 12.8 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-bromophenyl Trimethylsilyl ether | C[Si](C)(C)OC1=CC(=CC=C1)Br | C9H13BrOSi
